data/oMe_Silver.jsonl
{"reaction_id": "NR-211_1-C_2-CC_3-C(C)(C)C_4-C(F)(F)F","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(C)CC","[C-]#[N+]C(C)(C)C","O=C(O)C(F)(F)F"],"products_smiles": ["O=C(C(F)(F)F)OC(C(=O)NC(C)(C)C)(C)CC"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C)CC","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C)(CC)C(#[N+]C(C)(C)C)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(C(F)(F)F)OC(=[N]C(C)(C)C)C(C)(CC)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(C(F)(F)F)OC(=[N]C(C)(C)C)C(C)(CC)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C(F)(F)F)OC(C(=O)NC(C)(C)C)(C)CC","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
{"reaction_id": "NR-208_1-C(=O)OC_2-c1cccs1_3-C_4-c1ccccc1C","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C(=O)OC)=C(c1cccs1)C(C)(c1ccccc1C)OC=N"],"products_smiles": ["C(=O)NC(C(=O)OC)C(c1cccs1)=C(C)(c1ccccc1C)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C(=O)OC)C(c1cccs1)=C(C)(c1ccccc1C)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
